US06403610B1
2.96 cm3 of 5N aqueous sodium hydroxide solution were added, with stirring at a temperature in the region of 20° C., to a solution of 1.9 g of methyl (3R,4R)-1-[2-(cyclohexylthio)ethyl]-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate in 35 cm3 of dioxane. The solution was heated for 16 hours at a temperature in the region of 60° C. The reaction mixture was evaporated under reduced pressure (5 kPa) at a temperature in the region of 50° C. and then the residue obtained was taken up in 50 cm3 of acetone and reevaporated as above. After having taken up the residue obtained in 50 cm3 of diethyl ether and having concentrated as under the above conditions, the yellow solid obtained had 20 cm3 of water added and was acidified with an amount of citric acid sufficient to obtain a pH in the region of 4-5. The mixture was extracted with 50 cm3 of dichloromethane. The organic extract was concentrated under reduced pressure (5 kPa) at a temperature in the region of 50° C. The evaporation residue was taken up in 2 times 100 cm3 of a dichloromethane/methanol (90/10 by volume) mixture, the insoluble material was filtered off each time after the residue had been taken up. The combined filtrates were concentrated as above and then the residue obtained was taken in 50 cm3 of diethyl ether and evaporated as under the above conditions. The crystals obtained were taken up in 50 cm3 of diethyl ether, filtered off, and washed with 2 times 50 cm3 of ether. The product was finally dried under reduced pressure, first under 5 kPa and then in an oven under 10 Pa at a temperature in the region of 60° C. 1.9 g of (3R,4R)-1-[2-(cyclohexylthio)ethyl]4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetic acid were obtained in the form of a solid with a yellow color.

reactant | sodium hydroxide | 5N, 2.96 cm3 | [OH-].[Na+]
reactant | methyl (3R,4R)-1-[2-(cyclohexylthio)ethyl]-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate | 1.9 g | C1(CCCCC1)SCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)O)CC(=O)OC | C29H42N2O4S
reactant | water | 20 cm3 | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane | 35 cm3 | O1CCOCC1 | C4H8O2
solvent | acetone | 50 cm3 | CC(=O)C | C3H6O
solvent | diethyl ether | 50 cm3 | C(C)OCC | C4H10O
solvent | diethyl ether | 50 cm3 | C(C)OCC | C4H10O
product | (3R,4R)-1-[2-(cyclohexylthio)ethyl]4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-acetic acid | 1.9 g | C1(CCCCC1)SCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)O)CC(=O)O | C28H40N2O4S
